MM10 (net27 net12 VSS VSS) nmos4
MM9 (net21 net12 VSS VSS) nmos4
MM8 (net12 net1003 net27 VSS) nmos4
MM7 (net13 net1003 net21 VSS) nmos4
MM3 (net32 net10 net10 VSS) nmos4
MM0 (net26 net6 net10 VSS) nmos4
MM4 (net10 VB2 VSS VSS) nmos4
MM6 (net12 VB3 net26 VDD) pmos4
MM5 (net13 VB3 net32 VDD) pmos4
MM1 (net32 VB1 VDD VDD) pmos4
MM2 (net26 VB1 VDD VDD) pmos4
MM13 (net9 net1003 VSS VSS) nmos4
MM15 (net1003 net1003 net9 VSS) nmos4
MM14 (net1003 net1006 VDD VDD) pmos4
RR1 (net1006 VSS) resistor
MM2 (net1006 net1006 VDD VDD) pmos4
M3 (net12 net13 VDD VDD) pmos4
M2 (VOUT1 net13 VDD VDD) pmos4
M1 (net6 net13 VDD VDD) pmos4
M0 (net5 net13 VDD VDD) pmos4
R1 (net10 net16) resistor
R0 (VOUT1 net10) resistor
Q3 (VSS VSS net12 0) pnp
Q2 (VSS VSS net5 0) pnp
Q1 (VSS net5 net6 0) pnp
Q0 (VSS net12 net16 0) pnp